US09447141B2
5,6α-epoxicholestan-3β-yl butyrate (10.4 g, 22.1 mmol, 1 eq) and histamine (4.9 g, 44.1 mmol, 2 eq) were charged in a round-bottomed flask equipped with a magnetic stirrer bar. 1-Butanol (70 ml, 5 vol) was added and the mixture heated to reflux for 40 h. The reaction mixture was cooled at r.t., diluted with methyl-tertbutyl-ether (5 vol) and washed with water (5 vol) and with brine (5 vol). The organic layer was passed through a silica pad (40 g) eluted with methyl-tertbutyl-ether (3 vol) then 10% Methanol/ethyl acetate (60 vol). Fractions of interest were pooled and the solvent was removed under reduced pressure to give 5α-Hydroxy-6β-[2-(1H-imidazol-4-yl)-ethylamino]-cholestan-3β-yl butyrate as a white solid (7.8 g, 57%). In same conditions, use of ethanol as solvent (40 vol) and Ca(OTf)2 as catalyst gave a 13% yield.

reactant | 5,6α-epoxicholestan-3β-yl butyrate | 22.1 mmol, 10.4 g, 1 eq | C(CCC)(=O)O[C@@H]1CC23[C@H](C[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]2(CC1)C)C)O3 | C31H52O3
reactant | histamine | 44.1 mmol, 4.9 g, 2 eq | NCCC1=CNC=N1 | C5H9N3
reactant | 1-Butanol | 70 ml | C(CCC)O | C4H10O
solvent | methyl-tertbutyl-ether | COC(C)(C)C | C5H12O
product | 5α-Hydroxy-6β-[2-(1H-imidazol-4-yl)-ethylamino]-cholestan-3β-yl butyrate | 7.8 g, 57% | C(CCC)(=O)O[C@@H]1C[C@@]2([C@@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)NCCC=1N=CNC1)O | C36H61N3O3
